US06291507B1
Ethyl 2,3-dioxo-4,4,4-trifluorobutanoate2-phenylhydrazone
Sodium nitrite (2.57 g) was added portionwise to aniline (3.22 g) in concentrated HCl (6.5 ml) and water 10 ml) at 0° C. over 15 minutes. The resulting solution was added dropwise to ethyl 2,3-dioxo-4,4,4-trifluorobutanoate (6.31 g) and sodium acetate (6 g) in water (30 ml) at 0° C. to precipitate the product as a red solid which was filtered and dried in vacuo (7.15 g, 72%). The crude hydrazone was used without further purification.

reactant | Sodium nitrite | 2.57 g | N(=O)[O-].[Na+]
reactant | aniline | 3.22 g | NC1=CC=CC=C1 | C6H7N
reactant | ethyl 2,3-dioxo-4,4,4-trifluorobutanoate | 6.31 g | O=C(C(=O)OCC)C(C(F)(F)F)=O | C6H5F3O4
reactant | sodium acetate | 6 g | C(C)(=O)[O-].[Na+]
solvent | HCl | 6.5 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | Ethyl 2,3-dioxo-4,4,4-trifluorobutanoate2-phenylhydrazone | C1(=CC=CC=C1)NN=C(C(=O)OCC)C(C(F)(F)F)=O | C12H11F3N2O3
